US05637593
5-(Pyrid-2-ylthio)indole (0.347 g, 1.53 mmol), 1-methylpiperid-4-one (0.347 g, 0.38 mL, 3.06 mmol), sodium methoxide (0.497 g) and some finely ground molecular sieves were heated in refluxing MeOH (20 mL) for 24 hr. After work-up and chromatography (silica gel; CH2Cl2 /MeOH; 0-15%), 3-(1-methyl-1,2,5,6-tetrahydropyrid-4-yl)-5-(pyrid-2-ylthio)indole was obtained as a yellow solid (0.35 g). This was treated with fumaric acid (0.189 g, 1.6 mmol) in MeOH/Et2O to give, as a pale yellow crystalline solid: 3-(1-methyl-1,2,5,6-tetrahydropyrid-4-yl)-5-(pyrid-2-ylthio)indole fumarate, 0.227 g (34%), m.p. 226°-28° C.

reactant | 5-(Pyrid-2-ylthio)indole | 1.53 mmol, 0.347 g | N1=C(C=CC=C1)SC=1C=C2C=CNC2=CC1 | C13H10N2S
reactant | 1-methylpiperid-4-one | 3.06 mmol, 0.38 mL, 0.347 g | CN1CCC(CC1)=O | C6H11NO
reactant | sodium methoxide | 0.497 g | C[O-].[Na+]
reactant | MeOH | 20 mL | CO | CH4O
solvent | CH2Cl2 MeOH | C(Cl)Cl.CO
product | 3-(1-methyl-1,2,5,6-tetrahydropyrid-4-yl)-5-(pyrid-2-ylthio)indole | CN1CC=C(CC1)C1=CNC2=CC=C(C=C12)SC1=NC=CC=C1 | C19H19N3S
